US06242450B1
A mixture of 2.5 gm (14.5 mMol) isoquinolin-4-ylboronic acid, 3.43 gm (10.3 mMol) 1-tert-butoxy-carbonyl-4-trifluoromethanesulfonyloxy-1,2,5,6-tetrahydropyridine, 1.3 gm (30.9 mMol) lithium chloride, 0.04 gm (0.05 mMol) [1,1′-bis (diphenylphosphino)-1-ferrocene]-palladium II chloride, and 2 mL 2M aqueous sodium carbonate in about 20 mL tetrahydrofuran containing a few drops of methanol was stirred at reflux for about 4 hours. The reaction was cooled to room temperature and then partitioned between ethyl acetate and 2N sodium hydroxide. The phases were separated and the aqueous phase was extracted well with ethyl acetate. The organic phases were combined, washed with saturated aqueous sodium chloride, dried over sodium sulfate and concentrated under reduced pressure. The residue was subjected to flash silica gel chromatography, eluting with 3:2 hexane:ethyl acetate. Fractions containing product were combined and concentrated under reduced pressure to provide 0.216 gm (57%) 1-tert-butoxycarbonyl-4-(isoquinolin-4-yl)-1,2,5,6-tetrahydropyridine as a light yellow oil.

reactant | isoquinolin-4-ylboronic acid | 14.5 mMol, 2.5 gm | C1=NC=C(C2=CC=CC=C12)B(O)O | C9H8BNO2
reactant | 1-tert-butoxy-carbonyl-4-trifluoromethanesulfonyloxy-1,2,5,6-tetrahydropyridine | 10.3 mMol, 3.43 gm | C(C)(C)(C)ON1C(C=C(CC1)OS(=O)(=O)C(F)(F)F)=C=O | C11H14F3NO5S
reactant | lithium chloride | 30.9 mMol, 1.3 gm | [Cl-].[Li+]
reactant | sodium carbonate | 2M, 2 mL | C([O-])([O-])=O.[Na+].[Na+]
catalyst | tetrahydrofuran | about 20 mL | O1CCCC1 | C4H8O
solvent | methanol | CO | CH4O
product | 1-tert-butoxycarbonyl-4-(isoquinolin-4-yl)-1,2,5,6-tetrahydropyridine | 0.216 gm, 57% | C(C)(C)(C)OC(=O)N1CC=C(CC1)C1=CN=CC2=CC=CC=C12 | C19H22N2O2
